US06410539B1
Titanium chloride (2.86 ml; 26 mmol) was added portionwise to a solution of methyl 4-amino-2-(4-fluorophenyl)benzoate (5 g; 20 mmol), 1-(4-fluorophenyl)-2-(imidazol-1-yl) ethanone (4.08 g; 20 mmol) and triethylamine (8.4 ml; 60 mmol) in dichloromethane (120 ml) at 0° C. under argon atmosphere. After stirring overnight at ambient temperature, sodium cyanoborohydride (1.4 g; 0.22 mmol) in solution in methanol (10 ml) was added at 0° C. The reaction mixture was stirred for 2 hours at ambient temperature, treated with 5% aqueous sodium hydrogen carbonate solution, filtered and extracted with dichloromethane. After evaporation to dryness of the organic phase, the residue was purified by flash chromatography eluting with dichloromethane/ethanol 95/5 to give methyl 4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylamino]-2-(4-fluorophenyl)benzoate. Yield 52%.

reactant | methyl 4-amino-2-(4-fluorophenyl)benzoate | 20 mmol, 5 g | NC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C14H12FNO2
reactant | 1-(4-fluorophenyl)-2-(imidazol-1-yl) ethanone | 20 mmol, 4.08 g | FC1=CC=C(C=C1)C(CN1C=NC=C1)=O | C11H9FN2O
reactant | triethylamine | 60 mmol, 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 0.22 mmol, 1.4 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Titanium chloride | 26 mmol, 2.86 ml | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
product | methyl 4-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethylamino]-2-(4-fluorophenyl)benzoate | Yield 52% | FC1=CC=C(C=C1)C(CN1C=NC=C1)NC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C25H21F2N3O2
